US05334576
Preparation of 5-(cyanomethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid
To a solution of 1.0 g of 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-bromomethyl-nicotinic acid, methyl ester, in 60 mL ethanol is added 0.24 g sodium cyanide, followed by 10 cc water. The resulting solution is stirred at room temperature for 24 hours and concentrated in vacuo. The residue is partitioned between methylene chloride and water. The aqueous phase is acidified to pH 3 and extracted with methylene chloride, and the combined organic phases are dried and concentrated in vacuo. Chromatography of the residue on silica gel using methylene chloride-methanol mixtures affords the desired product, mp 196°-200° (dec).

reactant | 2-(1-benzoyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-bromomethyl-nicotinic acid, methyl ester | 1.0 g | C(C1=CC=CC=C1)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=C(C=N1)CBr | C22H22BrN3O4
reactant | sodium cyanide | 0.24 g | [C-]#N.[Na+]
reactant | water | 10 cc | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 5-(cyanomethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | C(#N)CC=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C15H16N4O3
